US07642264B2
2-(3-Chloro-[1,2,4]triazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine (example A.12) (0.4 g, 1.47 mmol) and commercially available 3-chloro-1H-[1,2,4]triazole (0.22 g, 2.17 mmol) according to the general procedure IVa. Obtained as a yellow solid (0.36 g, 72%). MS (ISP) 340.0 [(M+H)+]; mp 137.5° C.

reactant | 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine | 1.47 mmol, 0.4 g | ClC1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
reactant | 3-chloro-1H-[1,2,4]triazole | 2.17 mmol, 0.22 g | ClC1=NNC=N1 | C2H2ClN3
product | 2-(3-Chloro-[1,2,4]triazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | ClC1=NN(C=N1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C14H9ClF3N5
